US05273999
Preparation of 5-[(3-Carboxyphenyl)carbonyl]-2-[7-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]heptyloxy]benzenepropanoic Acid
Starting with 0.153 g (0.74 mmol) of 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one, and 0.41 g (0.74 mmol) of 2-[(7-bromoheptyl)oxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic acid ethyl ester, the title compound (0.286 g; 77.8% overall yield) was obtained as a white solid, mp 152°-153° C. (recrystallized from hexane-ethyl acetate), using the procedure of example 22.

reactant | 2,3-dihydro-7-hydroxy-8-propyl-4H-1-benzopyran-4-one | 0.74 mmol, 0.153 g | OC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C12H14O3
reactant | 2-[(7-bromoheptyl)oxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic acid ethyl ester | 0.74 mmol, 0.41 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)OCCCCCCCBr)=O | C28H35BrO6
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5-[(3-Carboxyphenyl)carbonyl]-2-[7-[(3,4-dihydro-4-oxo-8-propyl-2H-1-benzopyran-7-yl)oxy]heptyloxy]benzenepropanoic Acid | 0.286 g, 77.8% | C(=O)(O)C=1C=C(C=CC1)C(=O)C=1C=CC(=C(C1)CCC(=O)O)OCCCCCCCOC1=C(C2=C(C(CCO2)=O)C=C1)CCC | C36H40O9
